* Z:\mnt\design.r\spice\examples\3755-1.asc
C1 N004 0 4.7µ
M§Q1 N001 N005 N007 N007 Si4850EY
R1 N007 0 10m
L1 IN N001 22µ
R2 N002 N008 2Meg
R3 N008 0 57K
D1 N001 N002 MBRS360
R4 N002 N009 .1
C2 N002 0 5µ
V1 IN 0 10
R5 IN N003 1Meg
R6 N003 0 200K
C3 N010 0 1000p
M§Q2 N012 N014 0 0 Si4850EY
D2 N009 N012 LXK2-PW14 N=10
C4 N011 0 .01µ
R7 N013 0 28.7K
XU1 N006 N006 0 N011 N013 N003 N004 IN N007 N005 N014 N008 N009 N002 N010 N006 0 LT3755-1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
.lib LT3755-1.sub
.backanno
.end
